US05185466
Synthesis of N-acryloyl-N-methyl-1-amino-1-deoxy-D-glucitol
N-methyl-1-amino-1-deoxy-D-glucitol (0.5 mol, 97.6 g) was dissolved in about 300 ml of water. Then 1-2 g of sodium nitrite was added and the solution was cooled in an ice bath. Potassium hydroxide (0.6 mole) was dissolved in water and cooled. Acryloyl chloride (0.55 mole) was mixed with an equal volume of methylene chloride. The reaction was done in the same way as described in step 3 for the synthesis of N-acryloyl-2-amino-2-deoxy-D-glucitol. The salts were also removed as described above. However, even after several weeks long evaporation from a crystallization dish, the product was not dry. After addition of more polymerization inhibitor, drying was continued in a desiccator. The semi-dry mass (yield 41-60%) was dissolved in warm dioxane which contained p-methoxy phenol. The warm solution was filtered through Celite and upon cooling the crystals were formed. They were collected and recrystallized from dioxane. The title compound is very hygroscopic.

reactant | N-methyl-1-amino-1-deoxy-D-glucitol | 0.5 mol, 97.6 g | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | sodium nitrite | 1-2 g | N(=O)[O-].[Na+]
reactant | Potassium hydroxide | 0.6 mole | [OH-].[K+]
reactant | Acryloyl chloride | 0.55 mole | C(C=C)(=O)Cl | C3H3ClO
reactant | N-acryloyl-2-amino-2-deoxy-D-glucitol | C(C=C)(=O)N[C@@H](CO)[C@@H](O)[C@H](O)[C@H](O)CO | C9H17NO6
solvent | water | about 300 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-acryloyl-N-methyl-1-amino-1-deoxy-D-glucitol | yield 41-60% | C(C=C)(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C10H19NO6
